US07557112B2
A mixture of 3-[(4-bromo-2,5-difluorobenzoyl)amino]thiophene-2-carboxamide; 1M NaOH aq and MeOH was stirred for two hours at 80° C. to give 2-(4-bromo-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4(1H)-one.

reactant | 3-[(4-bromo-2,5-difluorobenzoyl)amino]thiophene-2-carboxamide | BrC1=CC(=C(C(=O)NC2=C(SC=C2)C(=O)N)C=C1F)F | C12H7BrF2N2O2S
reactant | NaOH | 1M | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-(4-bromo-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4(1H)-one | BrC1=CC(=C(C=C1F)C1=NC(C2=C(N1)C=CS2)=O)F | C12H5BrF2N2OS
